US06617357B2
To a solution of 4-bromo-2-methyl-5-nitro(N,N-dimethyl)benzenesulfonamide (450 mg, 1.42 mmol) in dry DMF (14 mL) under argon was added CuCN (178 mg, 1.99 mmol). The resulting mixture was heated to 115° C. and stirred for 4 h. The reaction was cooled and diluted with water and ethyl acetate. The layers were separated, and the organics were washed once with water. The organics were then dried, concentrated, and purified by flash chromatography (35% ethyl acetate/hexanes) to provide 4-cyano-2-methyl-5-nitro-(N,N-dimethyl)benzenesulfonamide (249 mg, 65%) as pale yellow crystals. IR (thin film): 2240 cm−1. 1H NMR (400 MHz, CDCl3): δ2.78 (s, 3), 2.94 (s, 6), 7.87 (s, 1), 8.74 (s, 1).

reactant | 4-bromo-2-methyl-5-nitro(N,N-dimethyl)benzenesulfonamide | 1.42 mmol, 450 mg | BrC1=CC(=C(C=C1[N+](=O)[O-])S(=O)(=O)N(C)C)C | C9H11BrN2O4S
reactant | CuCN | 1.99 mmol, 178 mg | C(#N)[Cu]
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-cyano-2-methyl-5-nitro-(N,N-dimethyl)benzenesulfonamide | 249 mg, 65% | C(#N)C1=CC(=C(C=C1[N+](=O)[O-])S(=O)(=O)N(C)C)C | C10H11N3O4S
